US07214698B2
13.3 g (84.0 mmol) of 3-chloro-1,1-dimethyl propylamine-hydrochloride were added to 84.0 mL sodium hydroxide solution (1 M) at 0° C. with vigorous stirring. The reaction mixture was stirred for 30 min at 0° C. and then combined with 50 mL methylene chloride. The phases were separated and the aqueous phase was twice extracted with 35 mL methylene chloride. The combined organic phases were dried over magnesium sulphate and at ambient temperature combined with 14.2 g (81.0 mmol) of 2,6-dichlorobenzaldehyde with stirring. The reaction mixture was stirred for 18 h at ambient temperature, dried again with magnesium sulphate and the solvent was removed. 22.3 g (80.0 mmol, 99%) (3-chloro-1,1-dimethylpropyl)-(2,6-dichlorobenzylidene)-amine were obtained as a yellowish oil.

reactant | 3-chloro-1,1-dimethyl propylamine-hydrochloride | 84.0 mmol, 13.3 g | Cl.ClCCC(C)(C)N
reactant | sodium hydroxide | 1 M, 84.0 mL | [OH-].[Na+]
reactant | 2,6-dichlorobenzaldehyde | 81.0 mmol, 14.2 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (3-chloro-1,1-dimethylpropyl)-(2,6-dichlorobenzylidene)-amine | 80.0 mmol, 22.3 g, 99% | ClCCC(C)(C)N=CC1=C(C=CC=C1Cl)Cl | C12H14Cl3N
